US03957806
6H-Pyrido[1,2-c][1,3,5]benzoxadiazepine, hydrochloride
To a solution of 1.0 g of 6H-pyrido [1,2-c][1,3,5]-benzoxadiazepine in 20 ml of 2-propanol is added 5.0 ml of 4.2N 2-propanolic hydrogen chloride. To the clear solution is added anhydrous ether until a turbidity forms. The pale yellow crystalline solid is filtered and recrystallized from acetonitrile to give about 1.0 g of the title compound, mp about 232°-234°.

reactant | 6H-pyrido [1,2-c][1,3,5]-benzoxadiazepine | 1.0 g | C1=CC=CC2=C1N=C1N(CO2)C=CC=C1 | C12H10N2O
reactant | hydrogen chloride | 4.2N, 5.0 ml | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 6H-Pyrido[1,2-c][1,3,5]benzoxadiazepine, hydrochloride | about 1.0 g | Cl.C1=CC=CC2=C1N=C1N(CO2)C=CC=C1 | InChI=1S/C12H10N2O.ClH/c1-2-6-11-10(5-1)13-12-7-3-4-8-14(12)9-15-11;/h1-8H,9H2;1H
